US08012541B2
Preparation of 2,6-bis(4-fluorobenzoylamino)pyridine (precusor of mononer structure XIIIB)
2,6-Diaminopyridine (10.9 grams, 0.1 mole) was dissolved in 500 milliliters dichloromethane and trietbylamine (28.0 milliliters, 20.2 grams, 0.2 mole) was added. The solution was chilled to 0° C. before 4-fluorobenzoyl chloride (24.0 milliliters, 31.7 grams, 0.2 mole) was added drop-wise over the course of 30 minutes. After stirring for 2 hours at 0° C., the solution was allowed to warm to room temperature (25° C.) and stirred for 18 hours. The resulting precipitate was isolated by filtration and suction dried. The precipitate was recrystallized from 300 milliliters of refluxing ethanol, isolated by filtration, rinsed with ethanol, suction dried, and vacuum dried in an oven overnight. The yield was 34.0 grams of white crystals.

reactant | 2,6-Diaminopyridine | 0.1 mole, 10.9 grams | NC1=NC(=CC=C1)N | C5H7N3
reactant | 4-fluorobenzoyl chloride | 0.2 mole, 24.0 milliliters, 31.7 grams | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 500 milliliters | ClCCl | CH2Cl2
product | 2,6-bis(4-fluorobenzoylamino)pyridine | FC1=CC=C(C(=O)NC2=NC(=CC=C2)NC(C2=CC=C(C=C2)F)=O)C=C1 | C19H13F2N3O2
